US08426411B2
A vial containing 8-bromo-6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine (0.030 g, 0.076 mmol, prepared using D from Preparation #BBBBB.1 and NaOH, GGG.1 with NBS, K.1 with TsCl and NaH), 2-(4-methylpiperazin-1-yl)-4-(tributylstannyl)pyrimidine (0.054 g, 0.12 mmol, Preparation #39), LiCl (0.010 g, 0.24 mmol), CuI (0.003 g, 0.02 mmol), CsF (0.017 g, 0.12 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.009 g, 0.008 mmol) under nitrogen was evacuated and then back-filled with nitrogen. 1,4-Dioxane (0.5 mL) was added and nitrogen was bubbled through the mixture for about 30 min. The reaction vessel was sealed and the mixture was warmed to about 80° C. After about 4 h, the mixture was allowed to cool to ambient temperature. The mixture was diluted with water (5 mL) and EtOAc (5 mL) and then filtered through a syringe filter. The layers were separated and the aqueous phase was extracted with EtOAc (5 mL). The combined organics were concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with a gradient of 0-10% MeOH in DCM over 40 min to afford 8-(2-(4-methylpiperazin-1-yl)pyrimidin-4-yl)-6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine (0.026 g, 69%): LC/MS (Table 1, Method n) Rt=0.56 min; MS m/z 490 (M+H)+.

reactant | 8-bromo-6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine | 0.076 mmol, 0.030 g | BrC1=CN(C=2N=CC=3N(C21)C=NN3)S(=O)(=O)C3=CC=C(C)C=C3 | C14H10BrN5O2S
reactant | 2-(4-methylpiperazin-1-yl)-4-(tributylstannyl)pyrimidine | 0.12 mmol, 0.054 g | CN1CCN(CC1)C1=NC=CC(=N1)[Sn](CCCC)(CCCC)CCCC
reactant | LiCl | 0.24 mmol, 0.010 g | [Li+].[Cl-]
reactant | CsF | 0.12 mmol, 0.017 g | [F-].[Cs+]
catalyst | CuI | 0.02 mmol, 0.003 g | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.008 mmol, 0.009 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-(2-(4-methylpiperazin-1-yl)pyrimidin-4-yl)-6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine | 0.026 g, 69% | CN1CCN(CC1)C1=NC=CC(=N1)C1=CN(C=2N=CC=3N(C21)C=NN3)S(=O)(=O)C3=CC=C(C)C=C3 | C23H23N9O2S
